US09376449B2
To a mixture of a mixture (1.48 g) of 4-fluoro-1,2,6,8,9,10-hexahydro-7H-furo[3,2-e]pyrido[3,4-b]indol-7-one and 10-fluoro-2,3,5,7,8,9-hexahydro-6H-furo[2,3-f]pyrido[3,4-b]indol-6-one, and ethanol (20.0 mL) was added a mixture of potassium hydroxide (11.0 g) and water (10.0 mL), followed by warming to 100° C. and stirring for 2 days. The reaction mixture was ice-cooled and then neutralized with acetic acid (9.63 mL). Sodium hydrogen carbonate (5.05 g) and then di-tert-butyl dicarbonate (2.05 g) were added thereto. After stirring at room temperature for 2 days, the pH of the reaction mixture was adjusted to 3 with acetic acid and 6 M hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate, the insoluble materials were separated by filtration, and the filtrate was concentrated under reduced pressure to obtain a mixture (2.55 g) of 6-(tert-butoxycarbonyl)-8-{2-[(tert-butoxycarbonyl)amino]ethyl}-4-fluoro-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid and 5-(tert-butoxycarbonyl)-7-{2-[(tert-butoxycarbonyl)amino]ethyl}-8-fluoro-3,5-dihydro-2H-furo[2,3-f]indole-6-carboxylic acid.

reactant | 4-fluoro-1,2,6,8,9,10-hexahydro-7H-furo[3,2-e]pyrido[3,4-b]indol-7-one | 1.48 g | FC1=C2C(=C3C4=C(NC3=C1)C(NCC4)=O)CCO2 | C13H11FN2O2
reactant | 10-fluoro-2,3,5,7,8,9-hexahydro-6H-furo[2,3-f]pyrido[3,4-b]indol-6-one | FC=1C=2C3=C(NC2C=C2C1OCC2)C(NCC3)=O | C13H11FN2O2
reactant | potassium hydroxide | 11.0 g | [OH-].[K+]
reactant | Sodium hydrogen carbonate | 5.05 g | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 2.05 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 9.63 mL | C(C)(=O)O | C2H4O2
solvent | water | 10.0 mL | O | H2O
solvent | ethanol | 20.0 mL | C(C)O | C2H6O
product | 6-(tert-butoxycarbonyl)-8-{2-[(tert-butoxycarbonyl)amino]ethyl}-4-fluoro-1,6-dihydro-2H-furo[3,2-e]indole-7-carboxylic acid | 2.55 g | C(C)(C)(C)OC(=O)N1C(=C(C2=C3C(=C(C=C12)F)OCC3)CCNC(=O)OC(C)(C)C)C(=O)O | C23H29FN2O7
